US07399780B2
Ethyl 6-(2-hydroxy-5-cyano-1H-indol-3-yl)nicotinate
To a solution of 5-cyanooxindole (360 mg, 2.27 mmol) in N,N-dimethylformamide (5 mL) was added sodium hydride (106 mg, 4.41 mmol). The greenish reaction mixture was stirred for 50 min whereafter 6-chloronicotinic acid ethyl ester (350 mg, 1.89 mmol) dissolved in N,N-dimethylformamide (5 mL) was added. The reaction mixture was heated at 110° C. for 30 min and water (50 mL) and saturated NH4Cl(aq) (20 mL) was added, followed by extraction with ethyl acetate. The phases were separated and the organic phase contained the title compound as a precipitation that was filtered off. The solvent was concentrated in vacuo and additional product precipitated that was filtered to give 200 mg (34% yield) of the title compound in total: 1H NMR (DMSO-d6, 300 MHz) δ 14.50 (br s, 1 H), 11.00 (s, 1 H), 8.73 (s, 1 H), 7.95 (s, 2 H), 7.80 (s, 1 H), 7.48 (s, 1 H), 6.95 (d, J=7 Hz, 1 H), 4.50-4.15 (m, 2 H), 1.32 (t, J=7 Hz, 3 H).

reactant | 5-cyanooxindole | 2.27 mmol, 360 mg | C(#N)C=1C=C2CC(NC2=CC1)=O | C9H6N2O
reactant | sodium hydride | 4.41 mmol, 106 mg | [H-].[Na+]
reactant | 6-chloronicotinic acid ethyl ester | 1.89 mmol, 350 mg | C(C)OC(C1=CN=C(C=C1)Cl)=O | C8H8ClNO2
reactant | NH4Cl | 20 mL | [NH4+].[Cl-]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | water | 50 mL | O | H2O
product | Ethyl 6-(2-hydroxy-5-cyano-1H-indol-3-yl)nicotinate | 200 mg, 34% yield | OC=1NC2=CC=C(C=C2C1C1=NC=C(C(=O)OCC)C=C1)C#N | C17H13N3O3
